US07259266B2
Step 3: Preparation of 6-chloro-5-ethoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
To the solution of ethyl 6-chloro-5-ethoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate (300mg, 0.93 mmol) in 3 mL of THF was added a solution of lithium hydroxide hydrate (156 mg, 3.7 mmol) in 4 mL of water, followed by addition of 3 mL of ethanol. The resulting solution was heated to 80° C. for four hrs. After removing the solvent, the residue was acidified at 0° C. with ice-cold dilute hydrochloric acid. The product was extracted with EtOAc. After removing the solvents, the residue was purified on reverse phase HPLC. The product was obtained as white solid (120 mg). LC-MS (ES+) 323.2(M+1, 100). 1H NMR (CDCl3/400 MHz) 8.11(s, 1H), 7.32(d, J=8.8 Hz, 1H), 6.73(d, J=8.4 Hz, 1H), 5.65(q, J=6.8 Hz, 1H), 4.12(m, 2H), 1.44(t, J=7.2 Hz, 3H). 19F NMR(CDCl3/400 MHz) −78.81(d, J=6.8 Hz). 13C NMR(CDCl3/400 MHz) 169.5, 153.5, 152.8, 134.9, 134.3, 123.4(q, J=285.8 Hz), 121.3, 115.8, 115.5, 112.8, 71.6, 70.2(q, J=33.4 Hz), 15.5. HRMS (EI+) m/z calc. For (C13H10ClF3O4) 322.0220 (M+), found:322.0223.

reactant | ethyl 6-chloro-5-ethoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.93 mmol, 300mg | ClC=1C(=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)OCC)OCC | C15H14ClF3O4
reactant | lithium hydroxide hydrate | 3.7 mmol, 156 mg | O.[OH-].[Li+]
reactant | ethanol | 3 mL | C(C)O | C2H6O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
product | 6-chloro-5-ethoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 120 mg | ClC=1C(=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)O)OCC | C13H10ClF3O4
